reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N-:1]=[C:2]=[C+:3][N:5]([C:4]([H:6])([H:7])[H:8])[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],55.8560236843243
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3]([N:5]([C:6](=[O:4])[H:13])[H:12])=[N:7]\[H:14])[H:11])([H:8])([H:9])[H:10],98.5834470290432
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10].[C:3]([H:11])[H:12],117.200124274171
[C:1]([C:2]([N:3]([C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:11])=[O:4])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],71.9667382316294
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:9].[C:4](=[N:5][H:15])([H:13])[H:14].[C:6](=[O:7])([H:10])[H:16],96.4060603883517
[C-:4]#[O+:5].[C:1](/[C:2](=[N:3]/[H:11])[H:9])([H:6])([H:7])[H:8].[H:10][H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],44.1443858405326
[C:1]1([H:7])([H:8])[C+:2]([H:9])[C:3]([H:10])=[C-:4][C@:6]1([N:5]([H:11])[H:12])[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],12.038896948566602
[O+:1](=[C-:2][H:7])[C@@:3]1([H:8])[C@@:4]2([H:9])[O:5][C@@:6]12[H:10]>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10],29.7919414860198
[C:1]([C:2][C:3]([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],8.435782679078699
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([O:3][H:11])=[C:4]([H:12])[O:5]1.[C:6](=[O:7])([H:8])[H:13],106.10376612246701
[C:1]([C@@:2]1([H:11])[O:3]/[C:6](=[N:7]\[H:12])[C@@:4]1([C:5]([H:14])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],66.46987654979137
[C-:5]#[O+:6].[O:1]([C:2]([C:3]([N:4]([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],68.5465598351886
[C:1]([C@:2]1([H:11])[C:3]([H:13])([H:14])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])[C:6][N:7]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],58.5501404115987
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])([C:7]([H:19])([H:20])[H:21])[H:11],82.6988901868585
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]#[C:2][C@@:3]1([H:8])[O:4][C:5]([H:10])([H:11])[C:6][N:7]1[H:9],75.0378046086674
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:5](=[C:3](/[C:4]([H:13])([H:14])[H:15])[H:12])[C:6][H:16])([H:10])[H:11])([H:7])([H:8])[H:9],88.0517728220219
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])/[C:4]1=[C:5](\[O:6][H:11])[H:12])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],49.112498979643405
[C:1](=[C:2]([C@@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])[H:11])([H:8])[H:10].[H:9][H:12]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],83.6477364174319
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C@:5]([C:4]([H:10])([H:11])[H:13])([O:6][H:14])[H:12])([H:7])([H:8])[H:9],74.9083483747365
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9].[H:10][H:12],95.50299603670608
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C@@:5]2([H:14])[C@:6]1([H:15])[C:7]2([H:16])[H:17])([H:8])([H:9])[H:10],113.528751831745
[C:1](#[C:2][C:3]([N:5]([C:4][H:9])[H:10])([H:7])[H:8])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],44.888725831612405
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:10],87.92513842498829
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C-:5]#[O+:6].[C:1]([O:2][H:10])([H:7])([H:8])[H:9],68.7114038580973
